US07067517B2
Methyl-phenyl-carbamic acid 5-thiophen-2-yl-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-5-(2-thienyl)pyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (51%, crystals).

reactant | 1-hydroxy-5-(2-thienyl)pyrazole | ON1N=CC=C1C=1SC=CC1 | C7H6N2OS
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 5-thiophen-2-yl-pyrazol-1-yl ester | S1C(=CC=C1)C1=CC=NN1OC(N(C1=CC=CC=C1)C)=O | C15H13N3O2S
